US09107916B2
B. 2-[5-[(2,3-difluoro-4-methylphenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and (2,3-difluoro-4-methylphenyl)methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 2.32 (3H, s), 5.28 (2H, s), 5.80 (1H, s), 6.98 (1H, d, J=6.8 Hz), 7.11 (1H, d, J=7.2 Hz), 7.40 (1H, d, J=5.2 Hz), 7.58 (1H, s), 8.01 (1H, s), 8.70 (1H, d, J=4.8 Hz). [M+H] Calc'd for C17H12F2N4O, 327. Found, 327.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | (2,3-difluoro-4-methylphenyl)methanol | FC1=C(C=CC(=C1F)C)CO | C8H8F2O
product | 2-[5-[(2,3-difluoro-4-methylphenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | FC1=C(C=CC(=C1F)C)COC1=CC=NN1C1=NC=CC(=C1)C#N | C17H12F2N4O
